US07528136B2
c) [(2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidin-2-yl]-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
As described for Example 64e, [(2S,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidine-2-carboxylic acid (1 mmol) was converted, using 4-(3-trifluoromethyl-phenyl)-piperazine instead of 2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one, to the title product (71 mg) in 10% yield as colorless oil.

reactant | (2S,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidine-2-carboxylic acid | 1 mmol | FC(C=1C=C(CN([C@H]2C[C@H](N(C2)CC2=CC(=CC=C2)Cl)C(=O)O)C)C=C(C1)C(F)(F)F)(F)F | C22H21ClF6N2O2
reactant | 4-(3-trifluoromethyl-phenyl)-piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
product | [(2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidin-2-yl]-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 71 mg, 10% yield | FC(C=1C=C(CN([C@H]2C[C@H](N(C2)CC2=CC(=CC=C2)Cl)C(=O)N2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)C)C=C(C1)C(F)(F)F)(F)F | C33H32ClF9N4O
